US04332745
40 g (0.25 mol) of bromine were added dropwise to a solution of 42.6 g (0.2 mol) of 3-carboxy-3-cyano-2,2-dimethyl-propane-1-carboxylic acid ethyl ester and 41 g of sodium acetate in 400 ml of water at 20° C. The mixture was subsequently stirred at 20° C. for 5 hours. It was then acidified with dilute HCl and extracted twice with 100 ml of methylene chloride each time. The organic solutions were dried over sodium sulphate and then concentrated. The residue was first introduced dropwise into a flask, which was heated to 200° C., whereupon continuous evolution of CO2 started, and was then twice subjected to fractional distillation. 38 g (76.5% of theory) of 3-bromo-3-cyano-2,2-dimethyl-propane-1-carboxylic acid ethyl ester were obtained in the form of a colorless oil of boiling point 92°-95° C./2.5 mm Hg.

reactant | bromine | 0.25 mol, 40 g | BrBr | Br2
reactant | 3-carboxy-3-cyano-2,2-dimethyl-propane-1-carboxylic acid ethyl ester | 0.2 mol, 42.6 g | C(C)OC(=O)CC(C(C#N)C(=O)O)(C)C | C10H15NO4
reactant | sodium acetate | 41 g | C(C)(=O)[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 400 ml | O | H2O
product | 3-bromo-3-cyano-2,2-dimethyl-propane-1-carboxylic acid ethyl ester | 38 g, 76.5% | C(C)OC(=O)CC(C(C#N)Br)(C)C | C9H14BrNO2
